US06413991B1
2-Aminomethoxyanisole
A solution of the 2-cyanomethoxyanisole (5.6 g, 0.034 mol) in anhydrous ammonia (25 ml) and ethanol (50 ml) was heated to 120° C. at 500 psi for 12 h in the presence of raney nickel (1.4 g). The reaction mixture was filtered, concentrated under reduced pressure, the residue taken up in ether, and washed with 1.2 M HCl. The acidic phase was then rendered basic (pH=12) with careful addition of solid KOH and the alkaline solution extracted with ether. The organic phase was dried (MgSO4) and concentrated under reduced pressure to give the product (1.99 g, 35%) as an oil. IR. NMR. MS.

reactant | 2-cyanomethoxyanisole | 0.034 mol, 5.6 g | C(#N)COC1=C(C=CC=C1)OC | C9H9NO2
reactant | ammonia | 25 ml | N | H3N
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | raney nickel | 1.4 g | [Ni] | Ni
product | 2-Aminomethoxyanisole | 1.99 g, 35% | NCOC1=C(C=CC=C1)OC | C8H11NO2
